US08372864B2
82 mg of N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-2-(2-ethoxyethyl)-1-oxo-1,2,3,4-tetrahydroisoquinoline-5-carboxamide and 1 cm3 of a 2M solution of hydrochloric acid in ethyl ether are stirred at a temperature close to 20° C., under argon. The stirring is stopped and the ethyl ether is drawn off. The paste obtained is dried under vacuum at a temperature of 40° C. 86 mg of N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-2-(2-ethoxyethyl)-1-oxo-1,2,3,4-tetrahydroisoquinoline-5-carboxamide hydrochloride (1:1) are obtained in the form of a white powder.

reactant | N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-2-(2-ethoxyethyl)-1-oxo-1,2,3,4-tetrahydroisoquinoline-5-carboxamide | 82 mg | FC=1C=C(C[C@@H]([C@@H](CNC2(CC2)C2=CC(=CC=C2)C(F)(F)F)O)NC(=O)C=2C=3CCN(C(C3C=CC2)=O)CCOCC)C=C(C1)F | C34H36F5N3O4
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl ether | C(C)OCC | C4H10O
product | N-[(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-({1-[3-(trifluoromethyl)phenyl]cyclopropyl}amino)propyl]-2-(2-ethoxyethyl)-1-oxo-1,2,3,4-tetrahydroisoquinoline-5-carboxamide hydrochloride | 86 mg | Cl.FC=1C=C(C[C@@H]([C@@H](CNC2(CC2)C2=CC(=CC=C2)C(F)(F)F)O)NC(=O)C=2C=3CCN(C(C3C=CC2)=O)CCOCC)C=C(C1)F | InChI=1S/C34H36F5N3O4.ClH/c1-2-46-14-13-42-12-9-26-27(7-4-8-28(26)32(42)45)31(44)41-29(17-21-15-24(35)19-25(36)16-21)30(43)20-40-33(10-11-33)22-5-3-6-23(18-22)34(37,38)39;/h3-8,15-16,18-19,29-30,40,43H,2,9-14,17,20H2,1H3,(H,41,44);1H/t29-,30+;/m0./s1
